US08536092B2
Methyl 2-(3-chloropyridin-2-yl)-5-hydroxymethyl-2H-pyrazole-3-carboxylate
Under argon 12.3 g (41.7 mmol) of dimethyl 1-(3-chloropyridin-2-yl)-1H-pyrazole-3,5-dicarboxylate are introduced in 430 ml of tetrahydrofuran and this initial charge is cooled to −72° C. and admixed dropwise with 100 ml (100 mmol of a 1 M solution in hexane) of diisobutylaluminium hydride. The mixture is allowed to warm to 0° C. overnight and 65 ml of water are cautiously added. The solvents are removed on a rotary evaporator and the residue is extracted to exhaustion with methanol on a Soxhlet apparatus. Following removal of the solvent, the residue is purified on silica gel (cyclohexane/ethyl acetate=2:1→1:1).

reactant | dimethyl 1-(3-chloropyridin-2-yl)-1H-pyrazole-3,5-dicarboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C(=O)OC | C12H10ClN3O4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 65 ml | O | H2O
solvent | tetrahydrofuran | 430 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Methyl 2-(3-chloropyridin-2-yl)-5-hydroxymethyl-2H-pyrazole-3-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)CO | C11H10ClN3O3
